US04463162
A dispersion of 268 g of 2,6-dimethoxyanthraquinone in 1800 ml of ethyleneglycol dimethylether was mixed with 75 g of sodium borohydride under stirring under a nitrogen atmosphere for one hour. The solution was then added dropwise to 6000 ml of a cold aqueous 1N hydrochloric acid, and the precipitates formed were filtered off, washed with water and dried to give 220 g of green 2,6-dimethoxyanthracene-9,10-diol.

reactant | 2,6-dimethoxyanthraquinone | 268 g | COC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OC)=O | C16H12O4
reactant | sodium borohydride | 75 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyleneglycol dimethylether | 1800 ml | COCCOC | C4H10O2
product | 2,6-dimethoxyanthracene-9,10-diol | 220 g | COC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)O)OC)O | C16H14O4
